US04277498
A suspension of phthalimidoacetonitrile (6.01 g, 0.03 mole) in glacial acetic acid (16 ml) was heated to 60° C. with stirring; 2,6-dimethylheptan-2-ol (4.64 g, 0.03 mole) was then added followed dropwise by concentrated sulphuric acid (4.4 ml, 0.08 mole). The temperature rapidly rose to 20° and was controlled at this temperature during the addition. When the addition was complete the solution was stirred for 5 minutes and then added slowly to a mixture of ice and water (350 g). The precipitated solid was filtered off, washed thoroughly with water and dried in vacuo. The product was recrystallised from benzene with filtering to afford 2-phthalimido-N-(1,1,5-trimethylhexyl)acetamide, m.p. 162°-163°.

reactant | phthalimidoacetonitrile | 0.03 mole, 6.01 g | C1(C=2C(C(N1CC#N)=O)=CC=CC2)=O | C10H6N2O2
reactant | 2,6-dimethylheptan-2-ol | 0.03 mole, 4.64 g | CC(C)(CCCC(C)C)O | C9H20O
reactant | sulphuric acid | 0.08 mole, 4.4 ml | S(O)(O)(=O)=O | H2O4S
reactant | water | 350 g | O | H2O
solvent | acetic acid | 16 ml | C(C)(=O)O | C2H4O2
product | 2-phthalimido-N-(1,1,5-trimethylhexyl)acetamide | C1(C=2C(C(N1CC(=O)NC(CCCC(C)C)(C)C)=O)=CC=CC2)=O | C19H26N2O3
